US07456218B2
3-[4-[(4′-hydroxy-2′,6′-dimethylbiphenyl-3-yl)methoxy]phenyl]propanoic acid
To a solution of methyl 3-[4-[(4′-hydroxy-2′,6′-dimethylbiphenyl-3-yl)methoxy]phenyl]propanoate (0.18 g, 0.46 mmol) in methanol (2 mL) and tetrahydrofuran (4 mL) was added 1 N aqueous sodium hydroxide solution (0.91 mL) and the mixture was stirred at room temperature for 1 hr. The reaction mixture was concentrated and the residue was diluted with ethyl acetate, washed with 1 N hydrochloric acid and saturated brine, dried and concentrated under reduced pressure. The residue was crystallized from hexane/ethyl acetate=4/1 to give the title compound (0.13 g, yield 74%) as colorless crystals.

reactant | methyl 3-[4-[(4′-hydroxy-2′,6′-dimethylbiphenyl-3-yl)methoxy]phenyl]propanoate | 0.46 mmol, 0.18 g | OC1=CC(=C(C(=C1)C)C1=CC(=CC=C1)COC1=CC=C(C=C1)CCC(=O)OC)C | C25H26O4
reactant | sodium hydroxide | 1 N, 0.91 mL | [OH-].[Na+]
solvent | methanol | 2 mL | CO | CH4O
solvent | tetrahydrofuran | 4 mL | O1CCCC1 | C4H8O
product | 3-[4-[(4′-hydroxy-2′,6′-dimethylbiphenyl-3-yl)methoxy]phenyl]propanoic acid | 0.13 g, yield 74% | OC1=CC(=C(C(=C1)C)C1=CC(=CC=C1)COC1=CC=C(C=C1)CCC(=O)O)C | C24H24O4
